US04818758
A solution of 1.05 g of triethylamine in 20 ml of absolute dimethoxyethane was added dropwise within 15 minutes with stirring to a mixture of 1.78 g (10 mmol) of 1-(4-hydroxyphenyl)piperazine, 2.48 g (13.5 mmol) of 2-chloromethylbenzothiazole and 80 ml of absolute 1,2-dimethoxyethane under reflux. The mixture was stirred for a further 5 hours under reflux, the solvent was evaporated in vacuo, the residue was taken up in CH2Cl2 /H2O, the phases were separated, and the aqueous phase was extracted three times with CH2Cl2. The combined CH2Cl2 extracts were dried, filtered and evaporated. The crystalline residue (3.2 g) was recrystallized from methanol. 2.64 g (81.2% of theory) of pure 1-(4-hydroxyphenyl)-4-(benzothiazol-2-ylmethyl)piperazine, melting point 175°-76° C., were obtained.

reactant | triethylamine | 1.05 g | C(C)N(CC)CC | C6H15N
reactant | 1-(4-hydroxyphenyl)piperazine | 10 mmol, 1.78 g | OC1=CC=C(C=C1)N1CCNCC1 | C10H14N2O
reactant | 2-chloromethylbenzothiazole | 13.5 mmol, 2.48 g | ClCC=1SC2=C(N1)C=CC=C2 | C8H6ClNS
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | 1,2-dimethoxyethane | 80 ml | COCCOC | C4H10O2
product | 1-(4-hydroxyphenyl)-4-(benzothiazol-2-ylmethyl)piperazine | 2.64 g, 81.2% | OC1=CC=C(C=C1)N1CCN(CC1)CC=1SC2=C(N1)C=CC=C2 | C18H19N3OS
